US05591762
b) 4'-[(2-n-Propyl-4-methyl-6-(1-cyclopropylmethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
A mixture of 460 mg (0.6 mMol) of 4'-[(2-n-propyl-4-methyl-6-(1-cyclopropylmethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl and 10 ml of saturated methanolic hydrochloric acid is stirred for one hour at ambient temperature. The mixture is then evaporated to dryness, the residue is dissolved in dilute ammonia solution and washed with ether. The aqueous phase is adjusted to pH 5 to 6 with acetic acid and subsequently the solid precipitate is suction filtered. The crude product thus obtained is purified by column chromatography (100 g silica gel, eluant: methylene chloride/methanol=15:1)

reactant | 4'-[(2-n-propyl-4-methyl-6-(1-cyclopropylmethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl | 0.6 mMol, 460 mg | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C=C2C)C=2N=CN(C2)CC2CC2 | C51H46N8
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 4'-[(2-n-Propyl-4-methyl-6-(1-cyclopropylmethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)C=2N=CN(C2)CC2CC2 | C32H32N8
